US07851484B2
To a solution of 2,3-diamino-5-chloropyridine (7.0 g, 48.6 mmol, 1.0 equiv) and 3-pentanone (6.16 mL, 58.3 mmol, 1.2 equiv) in iPrOAc (100 mL) was added TFA (7.2 mL, 97.2 mmol, 2.0 equiv) by syringe. After stirring for 10 min, NaHB(OAc)3 (20 g, 97.2 mmol, 2.0 equiv) was added as a solid in several portions over ˜5 min. The reaction was allowed to stir overnight. The reaction mixture was then washed with satd. aq. NaHCO3 and brine, and the resulting organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel MPLC (10%-40% EtOAc/Hexanes) provided 5-chloro-N3-(pentan-3-yl)pyridine-2,3-diamine as a beige solid (2.6 g, 25%). m/z=214.1 [M+H]+

reactant | 2,3-diamino-5-chloropyridine | 48.6 mmol, 7.0 g, 1.0 equiv | NC1=NC=C(C=C1N)Cl | C5H6ClN3
reactant | 3-pentanone | 58.3 mmol, 6.16 mL, 1.2 equiv | CCC(CC)=O | C5H10O
reactant | TFA | 97.2 mmol, 7.2 mL, 2.0 equiv | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | iPrOAc | 100 mL | C(C)(C)OC(=O)C | C5H10O2
product | 5-chloro-N3-(pentan-3-yl)pyridine-2,3-diamine | 2.6 g, 25% | ClC=1C=C(C(=NC1)N)NC(CC)CC | C10H16ClN3
